US05679696
A solution of methyl 3-(4,4-difluoro-3-methylenecyclobut-1-enyloxy)-4-methoxybenzoate (1.39 g) in methanol (22 mL) is treated with a solution of potassium carbonate (0.83 g) in water (8 mL) and the solution is heated at 60°-70° C. for 8 hours, cooled and evaporated. The residue is dissolved in water (30 mL), extracted with diethyl ether (50 mL) and acidified to pH 4 by treatment with glacial acetic acid. The precipitated solid is extracted with ethyl acetate (2×75 mL). The combined organic extracts are dried over magnesium sulfate and concentrated, to give 3-(4,4-difluoro-3-methylene- cyclobut-1-enyloxy)-4-methoxybenzoic acid, in the form of a white solid, m.p. 163°-165° C.

reactant | methyl 3-(4,4-difluoro-3-methylenecyclobut-1-enyloxy)-4-methoxybenzoate | 1.39 g | FC1(C(C=C1OC=1C=C(C(=O)OC)C=CC1OC)=C)F | C14H12F2O4
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 22 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 3-(4,4-difluoro-3-methylene- cyclobut-1-enyloxy)-4-methoxybenzoic acid | FC1(C(C=C1OC=1C=C(C(=O)O)C=CC1OC)=C)F | C13H10F2O4
